US06498251B1
Synthesis Example 21d (the Inventive Compound) 2a-(4-(4-(6,7,8,9-Tetrahydro-5H-benzocyclohepten-5-yl)-piperazin-1-yl)butyl)-2a,3,4,5-tetrahydro-1H-benz[cd]indol-2-one
1-t-Butoxycarbonyl-4-(6,7,8,9-tetrahydro-5H-benzocyclohepten-5-yl)piperazine (340 mg, 1.0 mmol) was dissolved in 10% hydrochloric acid methanol (4 ml) and stirred at 40° C. for 3.5 hours. The solvent was removed by evaporation under a reduced pressure, and the thus obtained residue was mixed with 2a-(4-bromobutyl)-2a,3,4,5-tetrahydro-1H-benz[cd]indol-2-one (310 mg, 1.0 mmol) and potassium carbonate (490 mg, 3.5 mmol) and stirred overnight at room temperature in N,N-dimethylformamide (3 ml). This was mixed with water, the precipitate was collected by filtration and then the reaction product was extracted from the mother liquid with ethyl acetate. The extract was washed with water and saturated brine and dried with anhydrous sodium hydrogensulfate, the solvent was removed by evaporation under a reduced pressure, and the thus obtained material was separated and purified by a silica gel column chromatography. The thus purified compound was combined with the aforementioned precipitate and thoroughly washed with ethyl acetate to obtain 370 mg (0.81 mmol, 80%) of the title compound.

reactant | 1-t-Butoxycarbonyl-4-(6,7,8,9-tetrahydro-5H-benzocyclohepten-5-yl)piperazine | 1.0 mmol, 340 mg | C(C)(C)(C)OC(=O)N1CCN(CC1)C1CCCCC2=C1C=CC=C2 | C20H30N2O2
reactant | 2a-(4-bromobutyl)-2a,3,4,5-tetrahydro-1H-benz[cd]indol-2-one | 1.0 mmol, 310 mg | BrCCCCC12C(NC=3C=CC=C(C13)CCC2)=O | C15H18BrNO
reactant | potassium carbonate | 3.5 mmol, 490 mg | C([O-])([O-])=O.[K+].[K+]
reactant | water | O | H2O
solvent | hydrochloric acid methanol | 4 ml | CO.Cl
solvent | N,N-dimethylformamide | 3 ml | CN(C=O)C | C3H7NO
product | 2a-(4-(4-(6,7,8,9-Tetrahydro-5H-benzocyclohepten-5-yl)-piperazin-1-yl)butyl)-2a,3,4,5-tetrahydro-1H-benz[cd]indol-2-one | 0.81 mmol, 370 mg, 80% | C1=CC=CC2=C1CCCCC2N2CCN(CC2)CCCCC21C(NC=3C=CC=C(C23)CCC1)=O | C30H39N3O
